US04267184
4,5-Diphenyl-2-(trifluoromethylthio)pyrrole
In glassware flamed out, under nitrogen, and fitted with a dry ice condenser, were placed 11 g (0.05 mole) 2,3-diphenylpyrrole, 6.4 g (0.06 mole) anhydrous sodium carbonate and 200 ml ether. The mixture was chilled to -30° and 7.6 g (0.055 mole) trifluoromethanesulfenyl chloride was added as a gas from a tared trap. The reaction was stirred at -30° one-half hour, then allowed to warm to room temperature for two hours. The inorganic salts were removed by filtration and the ether filtrate was concentrated. The residue was chromatographed on 300 g Silic AR CC-7 eluting with hexane containing 5-10% toluene. The product was obtained as a white solid, 15.4 g (96%), m.p. 58°-9°.

reactant | 2,3-diphenylpyrrole | 0.05 mole, 11 g | C1(=CC=CC=C1)C=1NC=CC1C1=CC=CC=C1 | C16H13N
reactant | sodium carbonate | 0.06 mole, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | trifluoromethanesulfenyl chloride | 0.055 mole, 7.6 g | FC(SCl)(F)F | CClF3S
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4,5-Diphenyl-2-(trifluoromethylthio)pyrrole | C1(=CC=CC=C1)C=1C=C(NC1C1=CC=CC=C1)SC(F)(F)F | C17H12F3NS
